US07427630B2
3-Bromo-1-(triphenylmethyl)-1H-pyrazole
To a solution of 3-bromo-pyrazole (2.0 g, 13.6 mmol) in anh. CH2Cl2 (40 mL), at r.t., under N2, were added triphenylmethyl chloride (4.17 g, 1.1 eq) and Et3N (2.1 mL, 1.1 eq). The reaction mixture was stirred at r.t. for 4 hr. It was poured into water/CH2Cl2. The phases were separated and the aqueous layer was further extracted with CH2Cl2 (2×30 mL). The combined organic extracts were dried over anh. Na2SO4, the solids were filtered and the solvent evaporated. The residue was purified by flash chromatography (silica gel, 100% CH2Cl2) to give the title compound as a white solid (3.39 g, 64%).

reactant | 3-bromo-pyrazole | 13.6 mmol, 2.0 g | BrC1=NNC=C1 | C3H3BrN2
reactant | triphenylmethyl chloride | 4.17 g, 1.1 eq | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | Et3N | 2.1 mL, 1.1 eq | CCN(CC)CC | C6H15N
reactant | water CH2Cl2 | O.C(Cl)Cl
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-1-(triphenylmethyl)-1H-pyrazole | 3.39 g, 64% | BrC1=NN(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17BrN2
